US07326718B2
1. Methyl 8-(trans-2,3-dihydro-2-hydroxy-1-indenylamino)-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylate
10.0 g (45.7 mmol) methyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate and 18.1 g (137 mmol) 1,2-epoxyindane are suspended in 300 ml dioxane and 100 ml water. The reaction mixture is stirred at 100° C. for 2.5 d. After cooling down in an ice bath, the precipitate is collected and washed with water. The product is suspended in a mixture of 2-propanol and acetone (1:1) and filtered by suction. After drying in vacuo at 50° C., 12.4 g (77%) of the title compound are isolated as a colourless solid (m.p. 261-262° C.).

reactant | methyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate | 45.7 mmol, 10.0 g | NC=1C=2N(C=C(C1)C(=O)OC)C(=C(N2)C)C | C11H13N3O2
reactant | 1,2-epoxyindane | 137 mmol, 18.1 g | O1C2C1CC1=CC=CC=C21 | C9H8O
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | Methyl 8-(trans-2,3-dihydro-2-hydroxy-1-indenylamino)-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylate | 12.4 g, 77% | O[C@H]1[C@@H](C2=CC=CC=C2C1)NC=1C=2N(C=C(C1)C(=O)OC)C(=C(N2)C)C | C20H21N3O3
